### ISSUE TITLE
Rewriter match failure

### ISSUE THREAD

**Issue by joehendrix** [leanprover/lean3#1587]
I'm currently seeing an error where the `rw` tactic does not match rules when I expect it to -- perhaps due to a subterm being a metavariable.

This error was tested with 75786e9a6e0b344ada8bd1e4bf08fb2341a3d7fb.

Here's an example.  The `rw` command below works correctly when the first three lines were omitted, but fails to match when they are included.  In both cases, the goal appears to be the same, but the transitivity lines introduce a meta variable.

```
example : 8 + 4 ≤ 12 :=
begin
  transitivity,
  apply nat.add_le_add_right,
  { apply le_refl, },

  rw [norm_num.bit0_add_bit0],
end
```

The error message I get is:

```
1006:3: rewrite tactic failed, did not find instance of the pattern in the target expression
  bit0 ?m_3 + bit0 ?m_4
state:
⊢ 8 + 4 ≤ 12
```

**Comment by joehendrix** [comment]
Here's a simpler example:

```
def f (x : ℕ) := x

theorem foo : ∀ (x : ℕ), f x = x := by simp [f]

example (x : ℕ) : f x = x :=
begin
  transitivity, { refl, },
  rw [foo],
end
```

This fails with

```
.../foo.lean:9:2: error: rewrite tactic failed, did not find instance 
of the pattern in the target expression                                                                           
  f ?m_1
state:
x : ℕ
⊢ f x = x
```
